US07572809B2
Similar procedure as described in example 10 was used, starting from N-(4-hydroxy-phenyl)-acetamide and (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine to give N-{4-[3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yloxy]-phenyl}-acetamide. LC-MS m/e 360(MH+).

reactant | N-(4-hydroxy-phenyl)-acetamide | OC1=CC=C(C=C1)NC(C)=O | C8H9NO2
reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
product | N-{4-[3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yloxy]-phenyl}-acetamide | N1N=C(C=C1)NC=1N=C(C2=CC=CC=C2C1)OC1=CC=C(C=C1)NC(C)=O | C20H17N5O2
